US05506239
10 ml of 10% hydrochloric acid was added to a solution of 1.07 g of 6-[4-{N-[2-(4-methoxymethoxy-1-piperidinyl)ethyl]-N-benzylamino}butoxy]carbostyril in 10 ml of methanol. The mixture was stirred at room temperature for 1 day. The reaction mixture was washed with chloroform and then made alkaline with a 10% aqueous potassium hydroxide solution, followed by extraction with chloroform. The extract was washed with water and dried with magnesium sulfate. The solvent was removed by distillation. The resulting residue was purified by silica gel column chromatography (eluant: 5% methanol/chloroform), followed by recrystallization from ethyl acetate-diethyl ether, to obtain 330 mg of 6-[4-{N-[2-(4-hydroxy-1-piperidinyl)ethyl]-N-benzylamino}butoxy]carbostyril.

reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | 6-[4-{N-[2-(4-methoxymethoxy-1-piperidinyl)ethyl]-N-benzylamino}butoxy]carbostyril | 1.07 g | COCOC1CCN(CC1)CCN(CC1=CC=CC=C1)CCCCOC=1C=C2C=CC(NC2=CC1)=O | C29H39N3O4
solvent | methanol | 10 ml | CO | CH4O
product | 6-[4-{N-[2-(4-hydroxy-1-piperidinyl)ethyl]-N-benzylamino}butoxy]carbostyril | 330 mg | OC1CCN(CC1)CCN(CC1=CC=CC=C1)CCCCOC=1C=C2C=CC(NC2=CC1)=O | C27H35N3O3
